US05977141
(a) (R)-2-(4-Fluoro-benzenesulfonylamino)-4-methyl-pentanoic acid
A mixture of 4-fluoro-benzenesulfonyl chloride (1.65 g, 0.00848 mol), (R)-2-amino-4-methyl-pentanoic acid (1.233 g, 0.009398 mol), and sodium carbonate (1.91 g, 0.0180 mol) in water (15 mL) was stirred at room temperature for 5 days. The solution was filtered, and the filtrate was acidified with concentrated hydrochloric acid to pH=4. The mixture was extracted with ethyl acetate. The extract was washed with saturated sodium chloride, dried (MgSO4), and rotary evaporated to a yellow oil. The oil was chromatographed on silica gel (320 g, 230-400 mesh) eluting with dichloromethane-methanol (10:1, 10×300 mL). Fractions containing product were combined and rotary evaporated to give a pale yellow oil. The oil was dried in vacuo; yield 1.44 g (59%).

reactant | 4-fluoro-benzenesulfonyl chloride | 0.00848 mol, 1.65 g | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | (R)-2-amino-4-methyl-pentanoic acid | 0.009398 mol, 1.233 g | N[C@@H](C(=O)O)CC(C)C | C6H13NO2
reactant | sodium carbonate | 0.0180 mol, 1.91 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 15 mL | O | H2O
product | (R)-2-(4-Fluoro-benzenesulfonylamino)-4-methyl-pentanoic acid | FC1=CC=C(C=C1)S(=O)(=O)N[C@@H](C(=O)O)CC(C)C | C12H16FNO4S
